US04929269
(i) 5-t-butyl-2-methoxy-3-nitrophenylsulfonyl chloride
Concentrated sulphuric acid (13 ml) was added dropwise to a cooled mixture of 5-t-butyl 2-methoxyphenylsulfonyl chloride (9.0 g) and potassium nitrate (6.90 g) in dichloromethane (100 ml). The reaction mixture was then stirred for 16 hours at ambient temperature. The mixture was then poured onto ice-cold water (200 ml) and the organic layer was separated and dried over sodium sulphate. Removal of solvent gave the title compound as a pale yellow solid (9.1 g).

reactant | sulphuric acid | 13 ml | S(O)(O)(=O)=O | H2O4S
reactant | 5-t-butyl 2-methoxyphenylsulfonyl chloride | 9.0 g | C(C)(C)(C)C=1C=CC(=C(C1)S(=O)(=O)Cl)OC | C11H15ClO3S
reactant | potassium nitrate | 6.90 g | [N+](=O)([O-])[O-].[K+]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 5-t-butyl-2-methoxy-3-nitrophenylsulfonyl chloride | 9.1 g | C(C)(C)(C)C=1C=C(C(=C(C1)S(=O)(=O)Cl)OC)[N+](=O)[O-] | C11H14ClNO5S
